2146-02-26 06:28:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
   - ID consult requested continuing daptomycin and increasing cefepime
   dose, also suggested line removal vs. change over wire
   - Increasing norepinephrine dose throughout the day
   - Hypotensive to 77/36 at 0200, 2L NS bolus given and levophed titrated
   up to maximum of 0.5 mch/kg/min, 0.15 this AM
   - Called at 0610 that 4/2 blood culture is growing budding yeast,
   started on micafungin
   Patient reporting feeling slightly better since presentation to
   hospital. Denies pain at line site.
   Allergies:
   Demerol (Oral) (Meperidine Hcl) seizures;
   Compazine (Oral) (Prochlorperazine Maleate) Rash;
   Reglan (Oral) (Metoclopramide Hcl) Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine) blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Vancomycin
   Rash; red man s
   Last dose of Antibiotics:
   Cefipime - [**2146-2-25**] 07:22 PM
   Daptomycin - [**2146-2-26**] 05:57 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2146-2-25**] 07:22 PM
   Hydromorphone (Dilaudid) - [**2146-2-26**] 05:00 AM
   Heparin Sodium (Prophylaxis) - [**2146-2-26**] 05:10 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Reports slight headache. Denies fever or chills.
   Denies lightheadedness or confusion.
   Flowsheet Data as of  [**2146-2-26**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.8
   HR: 80 (78 - 102) bpm
   BP: 84/47(56) {73/35(43) - 131/68(76)} mmHg
   RR: 25 (19 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,938 mL
                                                                  2,992 mL
   PO:
                                                                    600 mL
                                                                    600 mL
   TF:
   IVF:
                                                                  2,338 mL
                                                                  2,392 mL
   Blood products:
   Total out:
                                                                  1,975 mL
                                                                  1,300 mL
   Urine:
                                                                  1,125 mL
                                                                    500 mL
   Stool:
   Balance:
                                                                    963 mL
                                                                  1,692 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   Physical Examination
   GEN: NAD
   HEENT: PERRL, EOMI, oral mucosa slightly dry
   NECK: supple, no LAD
   PULM: CTAB
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: soft, ostomy bag with large amount of liquid stool, NT, ND
   EXT: Left lower leg without differential swelling. No tenderness or
   erythema at line site
   Labs / Radiology
   185 K/uL
   8.3 g/dL
   99 mg/dL
   0.7 mg/dL
   18 mEq/L
   3.2 mEq/L
   18 mg/dL
   107 mEq/L
   132 mEq/L
   24.2 %
   8.5 K/uL
        [image002.jpg]
                             [**2146-2-25**]  04:25 AM
                             [**2146-2-26**]  01:39 AM
   WBC
   6.7
   8.5
   Hct
   27.4
   24.2
   Plt
   153
   185
   Cr
   0.7
   0.7
   Glucose
   241
   99
   Other labs: PT / PTT / INR:13.1/30.9/1.1, Differential-Neuts:94.3 %,
   Lymph:3.6 %, Mono:1.5 %, Eos:0.4 %, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.4 mg/dL
   MICRO:
   [**2146-2-24**] 7:20 pm Blood Culture, Routine (Preliminary): From Hickman:
   YEAST. BUDDING YEAST.
[**2146-2-24**] 6:48 pm Blood Culture, Routine (Preliminary): YEAST. BUDDING YEAST.
[**2146-2-25**] 4:26 am Feces negative for C.difficile toxin A & B by EIA.
   Assessment and Plan
   47 yo F with PMHx sig. for [**Location (un) 2455**] syndrome s/p colecomty and
   multiple small bowel resections now with short gut syndrome on TPN and
   multiple episodes of line-associated bacteremia presents with fevers
   and hypotension.
   # Septic shock:
   Pt has had multiple admission for sepsis secondary to line infections,
   most recently coag neg Staph with linezolid and Klebseilla pneumoniae
   with CTX.  Each time, her line has been exchanged over a wire due to
   lack of access.  Per notes, next option would be transhepatic access.
   Site itself is nontender, nondraining.  Pt also has chronic LLQ pain.
   CT abdomen did not reveal a source of infection though it was
   noncontrast.  Of note, at baseline, BP runs 80-90/60s at baseline.  In
   addition, pt had a TEE in [**11-1**] showing a "~1.7 cm wide region of soft
   tissue density adjacent to the insertion of the superior vena cava
   (SVC) into the right atrium with flow into the SVC suggestive of
   possible abscess or pseudoaneurysm."
   - Continue daptomycin and cefepime
   - Addition of micafungin to cover new yeast growth
   - Ongoing ID consultation input is appreciated
   - Opthalmology evaluation given her new fungemia
   - Repeat blood cultures today
   - f/u OSH blood cxs (called [**Hospital1 8601**] [**Last Name (un) 8602**]/[**Location (un) 1946**]
no record
   of bcxs btwn [**2-16**] and [**2-23**])
   - f/u speciation of blood cxs here
   - f/u UCx, C. diff
   - Left lower extremity U/S to rule out thrombus at line site
   - IVF boluses prn
   - Cont. levophed, liberate as tolerated to goal MAP >55
   - Consult with patient
s PCP as well as IR as to line options either
   temporary or permanent
   - After exploration of line options, consider consulting nutrition and
   ID together to determine at which point either TPN or PPN can be
   restarted
   # [**Location (un) 2455**] syndrome s/p colectomy and multiple small bowel resections,
   now with short gut syndrome.
   - hold TPN for now
   - cont. fentanyl patch
   #  ARF:  Pt has elevated Cr above baseline.  Likely secondary to
   hypovolemia from fevers, n/v.
   - IVF boluses prn
   - monitor Cr, received 2L in ED
   ICU Care
   Nutrition: TPN currently on hold
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-2-25**] 03:32 AM
   20 Gauge - [**2146-2-25**] 03:33 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  With her sister [**Name (NI) 789**]
   Code status: DNR/DNI
   Disposition: ICU care for now

2146-02-27 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started Micafungin for yeast in blood cultures from [**2146-2-24**].
   - Discussion with IR regarding line access. They feel a 48-hr line
   holiday is preferred. The patient however does not want to remove the
   current line and also does not want it to be changed over a wire. She
   understands the risks of serious infection and death if the line is
   infected and does not come out and she would like to attempt to treat
   without changing her line.
   - Patient also refused TPN out of concern for infection.
   - US showed R-fem clot. Plan to start anti-coagulation after line
   placement issues are sorted out.
 BLOOD CULTURED - At [**2146-2-26**] 11:00 AM
   BLOOD CULTURES SENT FROM L-GROIN HICKMAN. MICU [**Location (un) **] MD TEAM NOTIFIED
   UNABLE TO OBTAIN VENIPUNCTURE BLOOD CULTURES.
 ULTRASOUND - At [**2146-2-26**] 01:46 PM
   US OF LE's
 FEVER - 102.1
F - [**2146-2-26**] 08:00 PM
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Vancomycin
   Rash; red man s
   Last dose of Antibiotics:
   Micafungin - [**2146-2-26**] 10:20 AM
   Cefipime - [**2146-2-26**] 08:45 PM
   Daptomycin - [**2146-2-27**] 03:45 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2146-2-26**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2146-2-27**] 06:00 AM
   Hydromorphone (Dilaudid) - [**2146-2-27**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-27**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 36.9
C (98.4
   HR: 90 (68 - 95) bpm
   BP: 96/53(64) {85/46(57) - 109/63(71)} mmHg
   RR: 27 (20 - 36) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  4,579 mL
                                                                    262 mL
   PO:
                                                                  1,330 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  3,249 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  5,050 mL
                                                                    700 mL
   Urine:
                                                                  1,650 mL
                                                                    700 mL
   NG:
   Stool:
                                                                  2,600 mL
   Drains:
   Balance:
                                                                   -471 mL
                                                                   -438 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///18/
   Physical Examination
   GEN: NAD
   HEENT: PERRL, EOMI, oral mucosa slightly dry
   NECK: supple, no LAD
   PULM: CTAB
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: soft, ostomy bag with large amount of liquid stool, NT, ND
   EXT: Left lower leg without differential swelling. No tenderness or
   erythema at line site
   Labs / Radiology
   202 K/uL
   8.4 g/dL
   127 mg/dL
   0.5 mg/dL
   18 mEq/L
   3.2 mEq/L
   9 mg/dL
   110 mEq/L
   136 mEq/L
   24.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2146-2-25**]  04:25 AM
                             [**2146-2-26**]  01:39 AM
                             [**2146-2-27**]  02:29 AM
   WBC
   6.7
   8.5
   7.4
   Hct
   27.4
   24.2
   24.5
   Plt
   153
   185
   202
   Cr
   0.7
   0.7
   0.5
   Glucose
   241
   99
   127
   Other labs: PT / PTT / INR:13.8/36.2/1.2, Differential-Neuts:94.3 %,
   Lymph:3.6 %, Mono:1.5 %, Eos:0.4 %, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.7 mg/dL
   US [**2146-2-26**]: Focal thrombus within the right common femoral vein. Normal
   compressibility and flow noted inferiorly within the superficial
   femoral vein on that side. No son[**Name (NI) **] evidence of deep vein
   thrombosis of the left lower extremity.
   Assessment and Plan
   47 yo F with PMHx sig. for [**Location (un) 2455**] syndrome s/p colecomty and
   multiple small bowel resections now with short gut syndrome on TPN and
   multiple episodes of line-associated bacteremia presents with fevers
   and hypotension.
   # Septic shock:
   Pt has had multiple admission for sepsis secondary to line infections,
   most recently coag neg Staph with linezolid and Klebseilla pneumoniae
   with CTX.  Each time, her line has been exchanged over a wire due to
   lack of access.  Per notes, next option would be transhepatic access.
   Site itself is nontender, nondraining.  Pt also has chronic LLQ pain.
   CT abdomen did not reveal a source of infection though it was
   noncontrast.  Of note, at baseline, BP runs 80-90/60s at baseline.  In
   addition, pt had a TEE in [**11-1**] showing a "~1.7 cm wide region of soft
   tissue density adjacent to the insertion of the superior vena cava
   (SVC) into the right atrium with flow into the SVC suggestive of
   possible abscess or pseudoaneurysm."
   - Continue daptomycin and cefepime, pending culture data
   - cont micafungin to cover new yeast growth
   - Ongoing ID consultation input is appreciated, checking TTE
   - Opthalmology evaluation given her new fungemia showed no
   abnormalities
   - f/u blood cultures
   - f/u OSH blood cxs (from [**Hospital1 8601**] [**Last Name (un) 8602**]/[**Location (un) 1946**]), prelim is
   enterococcus, final data pending.
   - f/u speciation of blood cxs here
   - f/u UCx, C. diff
   - IVF boluses prn
   - Cont. levophed, liberate as tolerated to goal MAP >55
   - Consult with IR as to line options either temporary or permanent
   - Plan for removing the tunneled line, followed by 48hours of only
   peripheral access with antibiotic treatment, followed by IR placement
   of new central access. Also, would discuss with ID/pharm re: possible
   abx choices which could be given via IM in the case she cannot get
   peripheral access; also look in to possibility of intraosseous option
   for temporary access.
   - has back pain which has been imaged and is not felt to be a chronic
   osteo (as a potential source of recurrent infection) given that each
   infection seems to grow a new pathogen.
   # DVT: new r-fem clot seen on ultrasound
   - plan to start Lovenox after line issues are sorted out.
   # [**Location (un) 2455**] syndrome s/p colectomy and multiple small bowel resections,
   now with short gut syndrome.
   - plan to restart TPN; patient has been refusing TPN however for
   concern of infection.
   - cont. fentanyl patch
   - titrate Dilaudid as needed
   #  ARF:  Pt has elevated Cr above baseline.  Likely secondary to
   hypovolemia from fevers, n/v.
   - IVF boluses prn
   - monitor Cr, received 2L in ED
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-2-25**] 03:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2146-02-28 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - OSH Bcx from [**2-24**] group d enterococcus ([**Last Name (un) **]
   amp/gent/vanc/levo/linezolid) and yeast.
   - ID recs [**Female First Name (un) 188**] albicans switch fluc 400mg iv q24, enterococcus
   switch to amp 2gm q6, d/c cefepime, TTE.  If needs line holiday may do
   po linezolid and po fluc.  IM PCN a possibility if necessary
   - Optho recs no e/o fungal eye involve (eyes undilated though)
   - Will plan lovenox [**Hospital1 **] for R CFV DVT
   - 1L bolus in PM for hypotension, no TPN today.
   Allergies:
   Demerol / Compazine / Reglan / Betadine Surgi-Prep / Tape / Iodine;
   Iodine Containing / Morphine / Vancomycin
   Last dose of Antibiotics:
   Daptomycin - [**2146-2-27**] 03:45 AM
   Micafungin - [**2146-2-27**] 08:06 AM
   Cefipime - [**2146-2-27**] 09:30 AM
   Fluconazole - [**2146-2-27**] 08:40 PM
   Ampicillin - [**2146-2-28**] 02:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2146-2-27**] 08:00 PM
   Famotidine (Pepcid) - [**2146-2-27**] 08:00 PM
   Hydromorphone (Dilaudid) - [**2146-2-28**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-2-28**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.1
   HR: 85 (83 - 99) bpm
   BP: 73/42(50) {73/38(49) - 132/68(83)} mmHg
   RR: 24 (21 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,706 mL
                                                                    279 mL
   PO:
                                                                    640 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  2,066 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  3,850 mL
                                                                  1,000 mL
   Urine:
                                                                  1,500 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,144 mL
                                                                   -721 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   GEN: NAD
   HEENT: PERRL, EOMI, oral mucosa slightly dry
   NECK: supple, no LAD
   PULM: CTAB
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: soft, ostomy bag with large amount of liquid stool, NT, ND
   EXT: Left lower leg without differential swelling. No tenderness or
   erythema at line site
   Labs / Radiology
   287 K/uL
   7.9 g/dL
   123 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.5 mEq/L
   6 mg/dL
   112 mEq/L
   138 mEq/L
   23.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2146-2-25**]  04:25 AM
                             [**2146-2-26**]  01:39 AM
                             [**2146-2-27**]  02:29 AM
                             [**2146-2-28**]  03:52 AM
   WBC
   6.7
   8.5
   7.4
   7.0
   Hct
   27.4
   24.2
   24.5
   23.8
   Plt
   153
   185
   202
   287
   Cr
   0.7
   0.7
   0.5
   0.6
   Glucose
   241
   99
   127
   123
   Other labs: PT / PTT / INR:14.4/36.9/1.2, ALT / AST:17/11, Alk Phos / T
   Bili:163/0.6, Differential-Neuts:94.3 %, Lymph:3.6 %, Mono:1.5 %,
   Eos:0.4 %, Albumin:2.7 g/dL, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.5
   mg/dL
   MICRO:
[**2146-2-24**] BLOOD CULTURE FROM HICKMAN (PRELIM): [**Female First Name (un) **] ALBICANS.
[**2146-2-24**] BLOOD CULTURE (PRELIM): [**Female First Name (un) **] ALBICANS.
[**2146-2-25**] STOOL: C. DIFF TOXIN NEGATIVE
[**2146-2-26**] URINE CULTURE (Final): NO GROWTH.
[**2146-2-26**] BLOOD CULTURE (PRELIM): NGTD.
[**2146-2-27**] BLOOD CULTURE (PRELIM): NGTD.
   Assessment and Plan
   47 yo F with PMHx sig. for [**Location (un) 2455**] syndrome s/p colecomty and
   multiple small bowel resections now with short gut syndrome on TPN and
   multiple episodes of line-associated bacteremia presents with fevers
   and hypotension.
   # Septic shock:
   Pt has had multiple admission for sepsis secondary to line infections,
   most recently coag neg Staph with linezolid and Klebseilla pneumoniae
   with CTX.  Each time, her line has been exchanged over a wire due to
   lack of access.  Per notes, next option would be transhepatic access.
   Site itself is nontender, nondraining.  Pt also has chronic LLQ pain.
   CT abdomen did not reveal a source of infection though it was
   noncontrast.  Of note, at baseline, BP runs 80-90/60s at baseline.  In
   addition, pt had a TEE in [**11-1**] showing a "~1.7 cm wide region of soft
   tissue density adjacent to the insertion of the superior vena cava
   (SVC) into the right atrium with flow into the SVC suggestive of
   possible abscess or pseudoaneurysm."
   - Continue daptomycin and cefepime, pending culture data
   - cont micafungin to cover new yeast growth
   - Ongoing ID consultation input is appreciated, checking TTE
   - Opthalmology evaluation given her new fungemia showed no
   abnormalities
   - f/u blood cultures
   - f/u OSH blood cxs (from [**Hospital1 8601**] [**Last Name (un) 8602**]/[**Location (un) 1946**]), prelim is
   enterococcus, final data pending.
   - f/u speciation of blood cxs here
   - f/u UCx, C. diff
   - IVF boluses prn
   - Cont. levophed, liberate as tolerated to goal MAP >55
   - Consult with IR as to line options either temporary or permanent
   - Plan for removing the tunneled line, followed by 48hours of only
   peripheral access with antibiotic treatment, followed by IR placement
   of new central access. Also, would discuss with ID/pharm re: possible
   abx choices which could be given via IM in the case she cannot get
   peripheral access; also look in to possibility of intraosseous option
   for temporary access.
   - has back pain which has been imaged and is not felt to be a chronic
   osteo (as a potential source of recurrent infection) given that each
   infection seems to grow a new pathogen.
   # DVT: new r-fem clot seen on ultrasound
   - plan to start Lovenox after line issues are sorted out.
   # [**Location (un) 2455**] syndrome s/p colectomy and multiple small bowel resections,
   now with short gut syndrome.
   - plan to restart TPN; patient has been refusing TPN however for
   concern of infection.
   - cont. fentanyl patch
   - titrate Dilaudid as needed
   #  ARF:  Pt has elevated Cr above baseline.  Likely secondary to
   hypovolemia from fevers, n/v.
   - IVF boluses prn
   - monitor Cr, received 2L in ED
   ICU Care
   Nutrition: TPN currently on hold
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-2-25**] 03:32 AM
   20 Gauge - [**2146-2-25**] 03:33 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  With her sister [**Name (NI) 789**]
   Code status: DNR/DNI
   Disposition: ICU care for now

2146-03-01 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IR consulted and will see patient today
   - ID rec that optimally patient would have at least 24 hour line
   holiday; however, patient without peripheral access at this time
   - Patient able to maintain blood pressure with MAPs in mid-60s off of
   pressors all day and night
   - 1 L NS infusion at midnight due to losses of 1 L over the day
   - Nausea in morning of [**3-1**] and got ondansetron
   Allergies:
   Demerol (Oral) (Meperidine Hcl)
   seizures;
   Compazine (Oral) (Prochlorperazine Maleate)
   Rash;
   Reglan (Oral) (Metoclopramide Hcl)
   Rash;
   Betadine Surgi-Prep (Topical) (Povidone-Iodine)
   blisters;
   Nausea/Vomiting
   Iodine; Iodine Containing
   Hives; Nausea/V
   Morphine
   Unknown;
   Vancomycin
   Rash; red man s
   Last dose of Antibiotics:
   Daptomycin - [**2146-2-27**] 03:45 AM
   Micafungin - [**2146-2-27**] 08:06 AM
   Cefipime - [**2146-2-27**] 09:30 AM
   Fluconazole - [**2146-2-28**] 10:03 PM
   Ampicillin - [**2146-3-1**] 03:17 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2146-2-28**] 08:07 AM
   Heparin Sodium (Prophylaxis) - [**2146-2-28**] 02:21 PM
   Hydromorphone (Dilaudid) - [**2146-3-1**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2146-3-1**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.7
C (96.3
   HR: 82 (79 - 94) bpm
   BP: 94/56(65) {90/51(61) - 105/61(89)} mmHg
   RR: 26 (17 - 38) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  3,343 mL
                                                                  1,772 mL
   PO:
                                                                    630 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,641 mL
                                                                  1,127 mL
   Blood products:
   Total out:
                                                                  4,450 mL
                                                                  1,050 mL
   Urine:
                                                                  2,200 mL
                                                                    550 mL
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                 -1,107 mL
                                                                    722 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   GEN: NAD
   HEENT: PERRL, EOMI, oral mucosa slightly dry
   NECK: supple, no LAD
   PULM: CTAB, decreased breath sounds at right base
   CARD: RR, nl S1, nl S2, no M/R/G
   ABD: BS+, soft, NT, ND, ostomy bag with large amount of liquid stool
   EXT: Lower extremities without differential swelling. No tenderness or
   erythema at line site
   Labs / Radiology
   286 K/uL
   7.1 g/dL
   129 mg/dL
   0.5 mg/dL
   22 mEq/L
   3.1 mEq/L
   7 mg/dL
   107 mEq/L
   135 mEq/L
   22.0 %
   5.5 K/uL
        [image002.jpg]
                             [**2146-2-25**]  04:25 AM
                             [**2146-2-26**]  01:39 AM
                             [**2146-2-27**]  02:29 AM
                             [**2146-2-28**]  03:52 AM
                             [**2146-3-1**]  03:51 AM
   WBC
   6.7
   8.5
   7.4
   7.0
   5.5
   Hct
   27.4
   24.2
   24.5
   23.8
   22.0
   Plt
   153
   185
   202
   287
   286
   Cr
   0.7
   0.7
   0.5
   0.6
   0.5
   Glucose
   241
   99
   127
   123
   129
   Other labs: PT / PTT / INR:14.7/38.6/1.3, ALT / AST:[**10-1**], Alk Phos / T
   Bili:137/0.5, Differential-Neuts:94.3 %, Lymph:3.6 %, Mono:1.5 %,
   Eos:0.4 %, Albumin:2.4 g/dL, LDH:99 IU/L, Ca++:7.8 mg/dL, Mg++:1.7
   mg/dL, PO4:4.2 mg/dL
   ECHO [**2146-2-28**]: Left ventricular wall thickness, cavity size and
   regional/global systolic function are normal (LVEF >55%). Right
   ventricular chamber size and free wall motion are normal. The aortic
   valve leaflets (3) appear structurally normal with good leaflet
   excursion and no aortic regurgitation. The mitral valve appears
   structurally normal with trivial mitral regurgitation. There is no
   mitral valve prolapse. The septal leaflet of the tricuspid valve is
   mildly thickened but without discrete vegetation. There is mild to
   moderate [[**11-26**]+] tricuspid regurgitation. There is moderate pulmonary
   artery systolic hypertension. There is a trivial/physiologic
   pericardial effusion.
   Compared with the prior study (images reviewed) of [**2146-2-11**], the
   estimated pulmonary artery systolic pressure is higher (and was normal
   on [**2145-9-23**]). The tricuspid valve morphology is similar.
   Assessment and Plan
   47 yo F with PMHx sig. for [**Location (un) 2455**] syndrome s/p colectomy and
   multiple small bowel resections now with short gut syndrome on TPN and
   multiple episodes of line-associated bacteremia presented with fevers
   and hypotension.
   # Septic shock:
   Pt has had multiple admissions for sepsis secondary to line infections,
   most recently coag neg Staph treated with linezolid and Klebseilla
   pneumoniae treated with ceftriaxone.  Each time, her line has been
   exchanged over a wire due to lack of access.  Per notes, next option
   could be transhepatic access.  Line site itself is non-tender,
   non-erythematous, non-draining.  Pt also has chronic LLQ pain as well
   as back pain. CT abdomen did not reveal a source of infection though it
   was noncontrast.  Of note, at baseline, BP runs 80-90/60s. Current
   culture data from OSH and initial blood cultures here show enterococcus
   and [**Female First Name (un) 188**] albicans. On ampicillin and fluconazole. Ophthalmology
   evaluation without current evidence of fungal involvement. . Is c.diff
   negative and urine culture negative to date. Has been off pressors for
   >24hrs. with good pressures.
   - Continue ampicillin to cover enterococcus and fluconazole to cover
   [**Female First Name (un) 188**] albicans.
   - Alternate antibiotics through each line port daily until line is
   removed
   - Ongoing ID consultation input is appreciated
   - Consult with IR and ID as to line options either temporary for line
   holiday and/or permanent changes to access
   - f/u pending blood cultures
   - IVF boluses PRN hypotension as well as replacement of ostomy losses
   # DVT:
   New right superficial femoral DVT seen on ultrasound.
   - Plan to start anticoagulation soon, will depend on plan for
   procedures for line removal/re-site
   # [**Location (un) 2455**] syndrome s/p colectomy and multiple small bowel resections,
   now with short gut syndrome:
   - cont PPN
   - Cont. fentanyl patch
   - Titrate Dilaudid as needed
   #  [**Last Name (un) **]:
   Pt had elevated Cr above baseline at admission; however, is at 0.5 and
   appears to be normalized at this time.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2146-2-28**] 10:51 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2146-2-25**] 03:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: